US04861885
EXAMPLE 8: Preparation of allylbicyclo[2.2.1]hept-5-ene-2-carboxylic acid N-methylamide
With cooling, 9.8 g of allylbicyclo[2.2.1]hept-5-ene-2-carbonyl chloride are added dropwise to 50 ml of a 40% aqueous methylamine solution. After 1 hour at 20° C., 100 ml of ether are added. The organic phase is separated, and working up is effected as described in Example 4, affording 8.0 g (84% of theory) of a yellow liquid. For the purpose of characterisation, a sample is distilled in a bulb tube; nD20 =1.5160; η25 =420 mPas.

reactant | allylbicyclo[2.2.1]hept-5-ene-2-carbonyl chloride | 9.8 g | C(C=C)C12C(CC(C=C1)C2)C(=O)Cl | C11H13ClO
reactant | methylamine | CN | CH5N
solvent | ether | 100 ml | CCOCC | C4H10O
product | allylbicyclo[2.2.1]hept-5-ene-2-carboxylic acid N-methylamide | CNC(=O)C1C2(C=CC(C1)C2)CC=C | C12H17NO
